US07414134B2
Step (iii) Synthesis of methyl (R)-5-azido-5,6,7,8-tetrahydro-naphthalene-2-carboxylate (5)
To a 500 mL three-neck round-bottomed flask equipped with argon inlet/outlet, thermometer, and magnetic stirring was added 5(S)-hydroxy-5,6,7,8-tetrahydro-naphthalene-2-carboxylic acid methyl ester (29 g, 140 mmol) in 280 mL of toluene. The reaction mixture was cooled in a ice-salt bath, and DPPA (36 mL, 170 mmol, Aldrich) was added (internal temp.=−4° C.). DBU (25 mL, 170 mmol, Aldrich) was added over 10 min at such a rate that the internal temperature was kept below 1° C. The ice in the bath was allowed to melt, and the reaction continued for 12 h during which time the mixture stopped stirring because a precipitate had formed. Stirring was resumed, and the reaction mixture was stirred at RT for another 11 h. The reaction contents were poured into a 2 L sep funnel, and the lower dark-brown layer was removed. Water (250 mL) was added to the remaining top layer, and the mixture was extracted with Et2O (3×250 mL). The combined organic layers were washed with 1M H3PO4, water, satd NaHCO3, and brine. The organic layer was dried over MgSO4, filtered and concentrated in vacuo. Purification by silica gel chromatography (330 g Isco Redisep® column, 1:1 hexane-CH2Cl2) of the crude material provided the title compound. MS (+ion ESI) m/z =232 (MH+).

reactant | 5(S)-hydroxy-5,6,7,8-tetrahydro-naphthalene-2-carboxylic acid methyl ester | 140 mmol, 29 g | COC(=O)C1=CC=2CCC[C@@H](C2C=C1)O | C12H14O3
reactant | DPPA | 170 mmol, 36 mL | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | DBU | 170 mmol, 25 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | toluene | 280 mL | C1(=CC=CC=C1)C | C7H8
product | methyl (R)-5-azido-5,6,7,8-tetrahydro-naphthalene-2-carboxylate | N(=[N+]=[N-])[C@H]1C=2C=CC(=CC2CCC1)C(=O)OC | C12H13N3O2
